Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: ORTHOPAEDICS
 
Allergies: 
vancomycin
 
Attending: ___.
 
Chief Complaint:
left olecranon bursitis
 
Major Surgical or Invasive Procedure:
Incision and drainage left elbow, olecranon bursectomy

 
History of Present Illness:
___ pmhx type 1 diabetes on insulin presents as tfx OSH for
concern of necrotizing fasciitis of the left upper extremity.
Patient is a ___ and was at work on ___ and sustained
superficial abrasion/laceration(?) on left elbow. Self managed
with topical ointment antibiotics. Mornin of ___ he awoke w/
significant pain over the left elbow with limited range of 
motion
___ pain and presented to ___ where CT of his LUE was read
as "superficial necrotizing fasciitis of the distal left arm and
proximal left forearm"  No fracture dislocation or signs of
osteo-. No c/f compartment syndrome at OSH.  At OSH ID was
consulted at the outside hospital and he was given clindamycin
and ceftazidime.  White count at the outside hospital was 10.9.
C-reactive protein was 0.854.  

Upon arrival to BI, ED marked boundaries of redness and 
consulted
general surgery with c/f necrotizing fasciitis. General surgery
recommended Hand team evaluate ___ location in forearm.
Subjectively, patient states pain has improved mildly since am

                   
 
Past Medical History:
PMH/PSH: 
T1DM
HTN 
 
Social History:
___
Family History:
NC
 
Physical Exam:
___ 0753 Temp: 97.5 PO BP: 148/90 HR: 76 RR: 18 O2 sat: 94%
O2 delivery: Ra  
Gen: NAD, A&Ox3, lying on bed. 
CV: RRR
R: Breathing comfortably on room air. No wheezing.
Ext: WWP. 2 second capillary refill in all digit tips. LUE in
long arm splint, intact. Incision intact. No drainage no fluid 
collection or hematoma. Mild erythema surrounding incision, well 
within marked border. Hand SILT. Flexes and extends digits. 
 
Pertinent Results:
___ 01:13AM   WBC-8.7 RBC-4.39* HGB-13.9 HCT-40.6 MCV-93 
MCH-31.7 MCHC-34.2 RDW-11.3 RDWSD-38.1
___ 01:13AM   NEUTS-58.0 ___ MONOS-12.2 EOS-3.1 
BASOS-0.6 IM ___ AbsNeut-5.06 AbsLymp-2.25 AbsMono-1.06* 
AbsEos-0.27 AbsBaso-0.05
___ 01:13AM   PLT COUNT-279
___ 01:13AM   ___ PTT-33.2 ___
___ 07:20PM   WBC-10.5* RBC-4.28* HGB-13.6* HCT-40.3 MCV-94 
MCH-31.8 MCHC-33.7 RDW-11.3 RDWSD-38.1
___ 07:20PM   CALCIUM-8.3* PHOSPHATE-2.7 MAGNESIUM-1.8
___ 07:20PM   GLUCOSE-235* UREA N-9 CREAT-0.7 SODIUM-137 
POTASSIUM-4.8 CHLORIDE-99 TOTAL CO2-24 ANION GAP-14
 
Brief Hospital Course:
The patient was admitted from the emergency room on ___ and 
taken to the operating room for incision and drainage and left 
olecranon bursectomy on ___. He tolerated this well, and 
was transferred to the PACU postoperatively.

His hospital course was uncomplicated. 

Course by systems follows:
N: Pain was initially controlled with IV medications. This was 
transitioned to PO when he was tolerating a diet, and pain was 
well-controlled on PO medications alone at the time of 
discharge. 

CV: Vital signs were monitored regularly. Home medications were 
administered. 

R: Supplemental O2 was quickly weaned postoperatively, and the 
patient remained stable on room air. 

GI: Diet was advanced as tolerated. The patient had mild nausea 
with narcotic use, which was improved with zofran. He was 
tolerating a carbohydrate controlled diet at the time of 
discharge. 

GU: He voided without issue.

Endo: Sliding scale insulin was administered, and finger sticks 
were in the 100-200s range. 

ID: He was initially on IV clindamycin and cefepime 
postoperatively. He remained afebrile. Dressing changes revealed 
progressive improvement in erythema and there was no drainage. 
He was transitioned to bactrim for discharge. 

At the time of discharge on POD1, he was tolerating a regular 
diet, pain was controlled, and he was voiding and ambulating 
without issue. The patient voiced his readiness for discharge to 
home, and will keep the splint intact until follow up. He will 
follow up with Dr. ___ in one week.  
 
Medications on Admission:
MEDS: 
NPH
Losartan

ALL: 
Allergies  (Last Verified ___ by ___:
vancomycin 
 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H 
RX *acetaminophen 650 mg 1 tablet(s) by mouth every six (6) 
hours Disp #*60 Tablet Refills:*0 
2.  Ondansetron ODT ___ mg PO Q8H:PRN nausea 
RX *ondansetron 4 mg 1 tablet(s) by mouth every eight (8) hours 
Disp #*20 Tablet Refills:*0 
3.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
RX *oxycodone 5 mg 1 tablet(s) by mouth every four (4) hours 
Disp #*40 Tablet Refills:*0 
4.  Sulfameth/Trimethoprim DS 1 TAB PO BID 
RX *sulfamethoxazole-trimethoprim 800 mg-160 mg 1 tablet(s) by 
mouth twice a day Disp #*28 Tablet Refills:*0 
5.  Losartan Potassium 50 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
olecranon bursitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
INSTRUCTIONS AFTER HAND SURGERY:
- You were in the hospital for hand surgery. It is normal to 
feel tired or "washed out" after surgery, and this feeling 
should improve over the first few days to week.
- Resume your regular activities as tolerated, but please follow 
your weight bearing precautions strictly at all times.

ACTIVITY AND WEIGHT BEARING:
- Nonweight bearing left upper extremity in splint

MEDICATIONS
- Please take all medications as prescribed by your physicians 
at discharge.
- Continue all home medications unless specifically instructed 
to stop by your surgeon.
- Do not drink alcohol, drive a motor vehicle, or operate 
machinery while taking narcotic pain relievers.
- Narcotic pain relievers can cause constipation, so you should 
drink eight 8oz glasses of water daily and take a stool softener 
(colace) to prevent this side effect.

WOUND CARE:
Keep the splint dry and intact. 

WORK RESTRICTIONS: Should remain out of work until follow up on 
___
 
Followup Instructions:
___